US04289766
A mixture of 2.6 g. of 2-ethyltetrahydro-2H-1,3-thiazine, 3.4 g. of 3-chlorophenyl isothiocyanate, and 30 ml. of benzene was stirred, after an initial exotherm, at ambient temperature for about 64 hours. To the reaction mixture was added about 10 ml. of hexane, which caused white crystals to form. The mixture was cooled and filtered, and the solid was washed with hexane. The solid was recrystallized from about 500 ml. of 10:1 hexane:carbon tetrachloride to give N-(3-chlorophenyl)-2-ethyltetrahydro2H-1,3-thiazine-3-carbothioamide, m.p. 69°-73°. The following elemental microanalysis was obtained:

reactant | 2-ethyltetrahydro-2H-1,3-thiazine | C(C)C1SCCCN1 | C6H13NS
reactant | 3-chlorophenyl isothiocyanate | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
product | N-(3-chlorophenyl)-2-ethyltetrahydro2H-1,3-thiazine-3-carbothioamide | ClC=1C=C(C=CC1)NC(=S)N1C(SCCC1)CC | C13H17ClN2S2
